US07816558B2
Methyl 2-(3-cyano-4-fluorophenyl)isonicotinate and sodium azide were dissolved in a DMF solution, followed by stirring at 50° C. for 4 hours to obtain methyl 2-(4-azido-3-cyanophenyl)isonicotinate. NMRC: 7.38 (1H, d), 7.84 (1H, dd), 8.46 (1H, d).

reactant | Methyl 2-(3-cyano-4-fluorophenyl)isonicotinate | C(#N)C=1C=C(C=CC1F)C=1C=C(C(=O)OC)C=CN1 | C14H9FN2O2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 2-(4-azido-3-cyanophenyl)isonicotinate | N(=[N+]=[N-])C1=C(C=C(C=C1)C=1C=C(C(=O)OC)C=CN1)C#N | C14H9N5O2
